US08980911B2
To a solution of 2,6-dichloro-4-(methylcarbamoyl)benzoic acid (276 mg, 1.1 mmol) in dry dichloromethane, was added thionyl chloride (5 mL) and heated at 100° C. for about 3 hours. The mixture was concentrated under vacuum. The residue was dissolved in dry dichloromethane (3 mL) and added to the stirred solution of N-(2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide (120 mg, 0.55 mmol) in aluminium chloride (743 mg, 5.57 mmol) drop wise. The resulting reaction mixture was stirred overnight at room temperature. After completion, methanol (10 mL) was added cautiously to quench the reaction mass followed by concentration under vacuum. The reaction mass was diluted with water and extracted with ethyl acetate. The combined organic layer was washed with aq. sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate, and concentrated. Purification by silica gel (100-200) column chromatography using dichloromethane and methanol gradient as eluent afforded 3,5-dichloro-4-({7-[(cyclopropylcarbonyl)amino]-2-methyl-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)-N-methylbenzamide (70 mg, 29%).

reactant | 2,6-dichloro-4-(methylcarbamoyl)benzoic acid | 1.1 mmol, 276 mg | ClC1=C(C(=O)O)C(=CC(=C1)C(NC)=O)Cl | C9H7Cl2NO3
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide | 0.55 mmol, 120 mg | CC1=CC=2C(=C(N=CC2)NC(=O)C2CC2)N1 | C12H13N3O
reactant | aluminium chloride | 5.57 mmol, 743 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 3,5-dichloro-4-({7-[(cyclopropylcarbonyl)amino]-2-methyl-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)-N-methylbenzamide | 70 mg, 29% | ClC=1C=C(C(=O)NC)C=C(C1C(=O)C1=C(NC2=C(N=CC=C21)NC(=O)C2CC2)C)Cl | C21H18Cl2N4O3
